US07754737B2
To a solution of (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4,4-difluorocyclohexyl)propanoate (28.6 g, 0.089 mol), prepared as described in U.S. Pat. No. 5,688,946, in ethanol (600 mL) at 0° C. was added NaBH4 (27.1 g, 0.713 mol) in portions while the temp. was maintained at 0-5° C. The mixture was stirred for 2-3 h at rt and then evaporated. The residue was partitioned between water and EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4 and evaporated to give (S)-tert-butyl 1-(4,4-difluorocyclohexyl)-3-hydroxypropan-2-ylcarbamate (25.7 g, 99%), which was used in the next step without purification. 1H NMR (400 MHz, CDCl3): 4.61 (d, J=7.6 Hz, 1H), 3.70 (m, 1H), 3.50 (m, 1H), 2.45-1.10 (m, 11H), 1.44 (s, 9H); MS (E/Z): 295 (M+H+).

reactant | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4,4-difluorocyclohexyl)propanoate | 0.089 mol, 28.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1CCC(CC1)(F)F | C15H25F2NO4
reactant | NaBH4 | 0.713 mol, 27.1 g | [BH4-].[Na+]
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | (S)-tert-butyl 1-(4,4-difluorocyclohexyl)-3-hydroxypropan-2-ylcarbamate | 25.7 g, 99% | FC1(CCC(CC1)C[C@@H](CO)NC(OC(C)(C)C)=O)F | C14H25F2NO3
